US08937087B2
To a mixture of 5-trifluoromethyl-1,3-benzoxazol-2(3H)-one (999 mg) and acetone (25 mL) were added K2CO3 (1.02 g) and ethyl bromoacetate (708 μL) at room temperature, followed by heating to reflux for 4 hours. The reaction mixture was filtered while hot, and washed with acetone. The filtrate and the washed solution were combined and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: Hex/EtOAc=100/0-75/25) to obtain ethyl [2-oxo-5-(trifluoromethyl)-1,3-benzoxazol-3(2H)-yl]acetate (1.33 g).

reactant | 5-trifluoromethyl-1,3-benzoxazol-2(3H)-one | 999 mg | FC(C=1C=CC2=C(NC(O2)=O)C1)(F)F | C8H4F3NO2
reactant | K2CO3 | 1.02 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl bromoacetate | 708 μL | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | ethyl [2-oxo-5-(trifluoromethyl)-1,3-benzoxazol-3(2H)-yl]acetate | 1.33 g | O=C1OC2=C(N1CC(=O)OCC)C=C(C=C2)C(F)(F)F | C12H10F3NO4
